US04297369
The reaction is conducted at a temperature between -20° C. and 30° C. for 30 minutes to 5 hours. If necessary, it is further continued for 2 hours-20 hours at room temperature. If it is difficult to add the gaseous or liquid amine in an accurately equimolar amount based on the compound (II), the compound (II) and DCC are, in advance, reacted with each other in the aforesaid solvent, followed by adding thereto the amine to obtain the desired compound (I) in good yield. When the reactants are carried out in this order, an aqueous amine solution can be used and, when the used solvent is water-immiscible, it is desirable to stir the mixture as vigorously as possible. After completion of the reaction, dicyclohexylurea (hereinafter referred to as DCU) produced from DCC as by-product can be removed by filtration owing to its poor solubility in the aforesaid solvent. When DCU is not safficiently recovered, the solvent used is once distilled off from the reaction solution to replace it by another poorer solvent for DCU such as methylene chloride or ethyl acetate. Then the remaining DCU is more sufficiently recovered by filtration. And, in the case of using carbonyldiimidazole (hereinafter referred to as CDI) as a coupling agent in place of DCC, the reaction can be conducted in the almost same manner as described above. The solvent for the reaction is required to be anhydrous, but only carbon dioxide and imidazole are formed as by-products during the reaction; the former can be allowed to escape because it is a gas, and the latter can be easily removed out of the reaction system by washing with an acidic water.

reactant | dicyclohexylurea | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
solvent | water | O | H2O
product | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
